US09302989B2
N-[4-(1-isobutyl-1H-pyrazol-4-yl)benzyl]-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 280, substituting 1-isobutyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole for 1H-pyrazol-3-ylboronic acid and N-(4-bromobenzyl)isoindoline-2-carboxamide for 5-bromo-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (300 MHz, DMSO-d6) δ ppm 0.86 (d, J=6.4 Hz, 6H), 2.03-2.21 (m, 1H), 3.91 (d, J=7.1 Hz, 2H), 4.28 (d, J=5.9 Hz, 2H), 4.63 (s, 4H), 6.92 (t, J=5.9 Hz, 1H), 7.25-7.37 (m, 6H), 7.50 (d, J=8.3 Hz, 2H), 7.83 (s, 1H), 8.10 (s, 1H); MS (ESI(+)) m/e 375 (M+H)+.

reactant | 1H-pyrazol-3-ylboronic acid | N1N=C(C=C1)B(O)O | C3H5BN2O2
reactant | N-(4-bromobenzyl)isoindoline-2-carboxamide | BrC1=CC=C(CNC(=O)N2CC3=CC=CC=C3C2)C=C1 | C16H15BrN2O
reactant | 5-bromo-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | BrC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H20BrN3O2
product | N-[4-(1-isobutyl-1H-pyrazol-4-yl)benzyl]-1,3-dihydro-2H-isoindole-2-carboxamide | C(C(C)C)N1N=CC(=C1)C1=CC=C(CNC(=O)N2CC3=CC=CC=C3C2)C=C1 | C23H26N4O
